US09029560B2
Preparation of benzyl 4-bromobenzylcarbamate (C12)
In a 500 mL round bottomed flask, equipped with a magnetic stir bar, (4-bromophenyl)methanaminium chloride (10.0 g, 44.9 mmol) and sodium hydroxide (4.00 g, 100 mmol) were dissolved in tetrahydrofuran (80 mL) and water (80 mL). The solution was cooled in an ice water bath, and benzyl chloroformate (7.06 mL, 49.4 mmol) was added dropwise. The reaction was allowed to stir for 1 hour. The reaction was poured into a brine solution and extracted with ethyl acetate (2×200 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated to afford the title compound as a white solid (14.8 g, 102%): 1H NMR (400 MHz, DMSO-d6) δ 7.92 (t, J=6.0 Hz, 1H), 7.64-7.53 (m, 2H), 7.47-7.33 (m, 5H), 7.32-7.20 (m, 2H), 5.10 (s, 2H), 4.23 (d, J=6.2 Hz, 2H); 13C NMR (101 MHz, DMSO-d6) δ 156.33, 139.20, 137.05, 131.10, 129.22, 128.33, 127.72, 119.77, 65.42, 43.19; ESIMS m/z 320, 322 ([M+H]+).

reactant | (4-bromophenyl)methanaminium chloride | 44.9 mmol, 10.0 g | [Cl-].BrC1=CC=C(C=C1)C[NH3+]
reactant | sodium hydroxide | 100 mmol, 4.00 g | [OH-].[Na+]
reactant | benzyl chloroformate | 49.4 mmol, 7.06 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | water | 80 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | benzyl 4-bromobenzylcarbamate | 14.8 g, 102% | BrC1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1 | C15H14BrNO2
